US07531545B2
To a solution of 4-tert-butoxycarbonylamino-4-cyclohexyl-but-2-enoic acid methyl ester (9 g, 30 mmol) in MeOH (100 mL) was added Pd—C (10% on activated carbon) (1 g) under N2, and the reaction mixture was subjected to hydrogenation under 20 psi for 4 hours. The catalyst was filtered out, and the MeOH was evaporated to yield 4-tert-butoxycarbonylamino-4-cyclohexyl-butyric acid methyl ester as a white solid.

reactant | 4-tert-butoxycarbonylamino-4-cyclohexyl-but-2-enoic acid methyl ester | 30 mmol, 9 g | COC(C=CC(C1CCCCC1)NC(=O)OC(C)(C)C)=O | C16H27NO4
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd—C | 1 g | [Pd] | Pd
product | 4-tert-butoxycarbonylamino-4-cyclohexyl-butyric acid methyl ester | COC(CCC(C1CCCCC1)NC(=O)OC(C)(C)C)=O | C16H29NO4
